US08865726B2
To a stirred solution of (S)-3-methyl-2-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-ylamino)butan-1-ol (0.41 g, 0.83 mmol) in dichloromethane (6 mL) was added Et3N (0.58 mL, 4.2 mmol) at −15° C. A solution of pyridine-sulfur trioxide complex (0.66 g, 4.2 mmol) in DMSO (6 mL) was added in one portion. After stirring at −15° C. for 30 minutes, the mixture was poured into cold brine solution and extracted with ether. The combined organic extracts were washed with brine, dried and concentrated. The residue was purified by column chromatography (5% MeOH in dichloromethane) to give (S)-3-methyl-2-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-ylamino)butanal (0.36 g, 88%). LCMS (APCI+) m/z 491 [M+H]+.

reactant | (S)-3-methyl-2-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-ylamino)butan-1-ol | 0.83 mmol, 0.41 g | CC([C@@H](CO)NC1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C=2N(C=CN2)COCC[Si](C)(C)C)C | C26H36N6O2Si
reactant | Et3N | 4.2 mmol, 0.58 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | (S)-3-methyl-2-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-ylamino)butanal | 0.36 g, 88% | CC([C@@H](C=O)NC1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C=2N(C=CN2)COCC[Si](C)(C)C)C | C26H34N6O2Si
